US07348333B2
4b) tert-Butyl (2S)-2-(1-adamantylmethyloxycarbonylamino)-3-(4-(3-ethoxycarbonylpropyloxy)phenyl)propionate (4.3)
892 mg (5.5 mmol) of carbonyldiimidazole (CDl) were added to a solution of 830 mg (5 mmol) of 1-hydroxymethyladamantane in 10 ml of tetrahydrofuran and the mixture was stirred overnight at RT. It was then treated with 1 g (2.57 mmol) of tertbutyl (2S)-2-amino-3-(4-(3-ethoxycarbonyl-propyloxy)phenyl)propionate and 442 μl (2.57 mmol) of diisopropylethylamine (DIPEA) and the mixture was stirred overnight at 50° C. After cooling, it was taken up in ethyl acetate and the organic phase was washed successively with 3% strength citric acid solution, sodium hydrogencarbonate solution, 3×H2O and saturated NaCl solution. The organic phase was dried using MgSO4, the drying agent was filtered off and the filtrate was concentrated. The residue was chromatographed on silica gel using CH2Cl2/CH3OH (99/1). 1.19 g (85%) of an oil were obtained, which was employed without further purification for the synthesis of (4.4).

reactant | carbonyldiimidazole | 5.5 mmol, 892 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-hydroxymethyladamantane | 5 mmol, 830 mg | OCC12CC3CC(CC(C1)C3)C2 | C11H18O
reactant | tertbutyl (2S)-2-amino-3-(4-(3-ethoxycarbonyl-propyloxy)phenyl)propionate | 2.57 mmol, 1 g | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCCC(=O)OCC | C19H29NO5
reactant | diisopropylethylamine | 2.57 mmol, 442 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (2S)-2-(1-adamantylmethyloxycarbonylamino)-3-(4-(3-ethoxycarbonylpropyloxy)phenyl)propionate | 1.19 g, 85% | C12(CC3CC(CC(C1)C3)C2)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OCCCC(=O)OCC | C31H45NO7
